US07816020B2
In a 500-ml four-necked flask were placed 16.0 g (0.40 mole) of 60% sodium hydride (an oil-added grade), 39.6 g (0.20 mole) of deoxybenzoin, 200.0 g of toluene, and 198.8 g (1.46 moles) of methyl benzoate. The mixture was then heated under reflux with stirring for 15 hours while distilling off methanol. After the reaction was over, the reaction mixture was cooled to 40° C. and 60.8 g (0.60 mole) of concentrated hydrochloric acid and 180.0 g of water were added in drops. The reaction mixture was transferred to a separatory funnel and an organic layer was separated. The organic layer was concentrated under reduced pressure to dryness. The residue was purified by reslurrying with methanol and a solid was recovered by filtration and dried under reduced pressure to give 36.2 g of 1,2,3-triphenylpropane-1,3-dione.

reactant | sodium hydride | 0.40 mole, 16.0 g | [H-].[Na+]
reactant | deoxybenzoin | 0.20 mole, 39.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | methyl benzoate | 1.46 moles, 198.8 g | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | hydrochloric acid | 0.60 mole, 60.8 g | Cl | ClH
solvent | water | 180.0 g | O | H2O
solvent | toluene | 200.0 g | C1(=CC=CC=C1)C | C7H8
product | 1,2,3-triphenylpropane-1,3-dione | 36.2 g | C1(=CC=CC=C1)C(C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16O2
